US06706709B2
3-(1H-Indol-5-ylmethylene)-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid dimethylamide
5-Dimethylaminosulfonyl-2-oxindole was condensed with indole-5-carbaldehyde to give the title compound.

reactant | 5-Dimethylaminosulfonyl-2-oxindole | CN(S(=O)(=O)C=1C=C2CC(NC2=CC1)=O)C | C10H12N2O3S
reactant | indole-5-carbaldehyde | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
product | 3-(1H-Indol-5-ylmethylene)-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid dimethylamide | CN(S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=CC=1C=C2C=CNC2=CC1)C | C19H17N3O3S
